US06498165B1
2-[2-Methylbenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 2-methylbenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (CI): m/e 316.2 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.60 (s, 1H); 8.43 (br s, 1H); 8.05 (br s, 1H); 7.85 (d, J=8.7 Hz, 1H); 6.84 (d, J=5.4 Hz, 1H); 4.73 (d, J=5.7 Hz, 1H); 2.43 (s, 3H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 2-methylbenzylamine | CC1=C(CN)C=CC=C1 | C8H11N
product | 2-[2-Methylbenzylamino]-4-[benzimidazol-1-yl]pyrimidine | CC1=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=CC=C1 | C19H17N5
